two_stage_amp test

* Two stage OPAMP
.include "/home/cheriearjun/AnalogDesignRL/external/AutoCkt/eval_engines/ngspice/ngspice_inputs/spice_models/deliberately_missing_model.txt"

.param wp1=0.5u lp1=90n mp1=10
.param wn1=0.5u ln1=90n mn1=38
.param wn3=0.5u ln3=90n mn3=9
.param wp3=0.5u lp3=90n mp3=4
.param wn4=0.5u ln4=90n mn4=20
.param wn5=0.5u ln5=90n mn5=60
.param cc=3p
.param ibias=30u
.param cload=10p
.param vcm=0.6
 
mp1 net4 net4 VDD VDD pmos w=wp1 l=lp1 m=mp1
mp2 net5 net4 VDD VDD pmos w=wp1 l=lp1 m=mp1
mn1 net4 net2 net3 net3 nmos w=wn1 l=ln1 m=mn1
mn2 net5 net1 net3 net3 nmos w=wn1 l=ln1 m=mn1
mn3 net3 net7 VSS VSS nmos w=wn3 l=ln3 m=mn3
mn4 net7 net7 VSS VSS nmos w=wn4 l=ln4 m=mn4
mp3 net6 net5 VDD VDD pmos w=wp3 l=lp3 m=mp3
mn5 net6 net7 VSS VSS nmos w=wn5 l=ln5 m=mn5
cc net5 net6 {cc}
ibias VDD net7 ibias

vin in 0 dc=0 ac=1.0
ein1 net1 cm in 0 0.5
ein2 net2 cm in 0 -0.5
vcm cm 0 dc=vcm

vdd VDD 0 dc=1.2
vss 0 VSS dc=0
CL net6 0 {cload}

.temp 27

.control
set numdgt=15
set wr_vecnames
op
wrdata dc.csv i(vdd)
print v(net6)
ac dec 100 1 10G
wrdata ac.csv v(net6)

let check_magnitude = mag(v(net6))
let check_gain_db = db(v(net6))
let check_margin = 180 + cph(v(net6))*57.29577951308232
meas ac check_gain_db_result find check_gain_db at=1
meas ac check_unity_hz_result when check_magnitude=1 fall=1
meas ac check_margin_deg_result find check_margin when check_magnitude=1 fall=1

quit
.endc
.end
